US07361772B2
A mixture of (6-{2-[2-(4-Fluoro-phenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrolidin-1-yl]-ethyl}-2-phenyl-[1,3,2]dioxaborinan-4-yl)-acetic acid tert-butyl ester (5 g, 0.007 mol), water (200 ml), methanol (200 ml) and calcium oxide (5.0 g, 0.09 mol) was stirred at 50-60° C. for 10 hours. After filtering the reaction mixture, the resulting clear filtrate was concentrated to about 150 ml and washed with methyl tert-butyl ether (50 ml). The aqueous layer was evaporated and the solid obtained was dissolved in THF (50 ml). The solution was filtered and concentrated to yield [R-(R*,R*)]-2-(4-fluorophenyl)-β,δ-dihydroxy-5-(1-methylethyl)-3-phenyl-4-[(phenylamino)carbonyl]-, 1H-Pyrrole-1-heptanoic acid hemicalcium salt.

reactant | (6-{2-[2-(4-Fluoro-phenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrolidin-1-yl]-ethyl}-2-phenyl-[1,3,2]dioxaborinan-4-yl)-acetic acid tert-butyl ester | 0.007 mol, 5 g | C(C)(C)(C)OC(CC1OB(OC(C1)CCN1C(C(C(C1C(C)C)C(NC1=CC=CC=C1)=O)C1=CC=CC=C1)C1=CC=C(C=C1)F)C1=CC=CC=C1)=O | C43H50BFN2O5
reactant | water | 200 ml | O | H2O
reactant | methanol | 200 ml | CO | CH4O
reactant | calcium oxide | 0.09 mol, 5.0 g | [O-2].[Ca+2]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1H-Pyrrole-1-heptanoic acid | N1(C=CC=C1)CCCCCCC(=O)O | C11H17NO2
